US08304557B2
1,3-dimethyl-N-{3-methyl-5-[(6-nitropyridin-3-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide
In the same manner as in Reference Example 12 and using N-(3-hydroxy-5-methylphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide (8.30 g, 33.8 mmol), cesium carbonate (16.5 g, 50.8 mmol), 5-bromo-2-nitropyridine (6.54 g, 32.2 mmol) and N,N-dimethylformamide (40 mL) as starting materials, the title compound (7.68 g, 54%) was obtained as a pale-yellow oil.

reactant | N-(3-hydroxy-5-methylphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | 33.8 mmol, 8.30 g | OC=1C=C(C=C(C1)C)NC(=O)C1=CC(=NN1C)C | C13H15N3O2
reactant | cesium carbonate | 50.8 mmol, 16.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-bromo-2-nitropyridine | 32.2 mmol, 6.54 g | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 1,3-dimethyl-N-{3-methyl-5-[(6-nitropyridin-3-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide | 7.68 g, 54% | CN1N=C(C=C1C(=O)NC1=CC(=CC(=C1)OC=1C=NC(=CC1)[N+](=O)[O-])C)C | C18H17N5O4
